US04030925
26. 3-Butyl-1-[4-(2-formylhydrazino)-3-methoxyphenyl]thiourea (NA-25)
Procedure (12.) was employed with 1-formyl-2-(4-amino-2-methoxyphenyl)hydrazine (1.2 g, 0.0066 mole) and butyl isothiocyanate (0.76 g, 0.006 mole). Yield 0.90 g (46%), m.p. 130°-132° C.

reactant | 1-formyl-2-(4-amino-2-methoxyphenyl)hydrazine | 0.0066 mole, 1.2 g | C(=O)NNC1=C(C=C(C=C1)N)OC | C8H11N3O2
reactant | butyl isothiocyanate | 0.006 mole, 0.76 g | C(CCC)N=C=S | C5H9NS
product | 3-Butyl-1-[4-(2-formylhydrazino)-3-methoxyphenyl]thiourea | C(CCC)NC(NC1=CC(=C(C=C1)NNC=O)OC)=S | C13H20N4O2S
